US04486434
5-Amino-2-[4-aminobutyl]-3-methylpyridine (2.17 g) in 20% sulphuric acid (25 ml) at -5° C. was reacted with a solution of sodium nitrite (1 g) in water (5 ml) over 20 minutes. After a further 15 minutes at -9° C. the reaction mixture was added to a mixture of potassium iodide (4 g) and cuprous iodide (0.5 g) in water (65 ml) at 10° C. and then stirred at room temperature for 30 minutes. Saturated sodium thiosulphate solution (10 ml) was added and the pH was brought to 12 with sodium hydroxide. Chloroform extraction of the reaction mixture gave 5-iodo-3-methyl-2-(4-aminobutyl)pyridine as a dark oil (2.45 g). N.M.R. (CDCl3) assignment, δ (p.p.m.), multiplicity; (CH2)2CH2NH2, 1.4-2.0, m; NH2, 1.69, s; 3--CH3, 2.28, s; CH2 (CH2)2CH2NH2, 2.76, m; 4--H pyridyl, 7.75, m; 6--H pyridyl, 8.57, m.

reactant | 5-Amino-2-[4-aminobutyl]-3-methylpyridine | 2.17 g | NC=1C=C(C(=NC1)CCCCN)C | C10H17N3
reactant | sodium nitrite | 1 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 4 g | [I-].[K+]
reactant | sodium thiosulphate | 10 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 ml | O | H2O
solvent | water | 65 ml | O | H2O
product | 5-iodo-3-methyl-2-(4-aminobutyl)pyridine | 2.45 g | IC=1C=C(C(=NC1)CCCCN)C | C10H15IN2
